US04948533
21-(3-Carboxy-1-oxopropoxy)-17α-hydroxy-11α-hydroxypregna-4-ene-3,20-dione
A solution of 3.60 g of 11-epi-cortisol and 1.00 g of succinic anhydride in 45 ml of pyridine was stirred for 4 days at room temperatures The reaction was concentrated. The residue was partitioned between methylene chloride and water. The organic phase was partitioned with sodium bicarbonate. The aqueous layer was washed with methylene chloride. The aqueous layer was acidified with 10% aqueous U HCl and was extracted with chloroform. The organic phase was concentrated. The residue was chromatographed on RP2 silica gel (20% ethyl acetate/methylene chloride) to yield the product which was crystallized from hot ethyl acetate to yield 2.00 g of the white, solid product, mp 208-209. Anal. Calcd for C25H34O8. Calcd/Found: C, 64.92/64.24; H, 7.41/7.08

reactant | 11-epi-cortisol | 3.60 g | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2[C@@H](C[C@]4([C@H]3CC[C@@]4(C(=O)CO)O)C)O | C21H30O5
reactant | succinic anhydride | 1.00 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
product | 21-(3-Carboxy-1-oxopropoxy)-17α-hydroxy-11α-hydroxypregna-4-ene-3,20-dione | C(=O)(O)CCC(OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3[C@@H](C[C@]12C)O)=O)O)=O)=O | C25H34O8
